US06323240B1
2-methyliden-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid (PNU 158432)
Aluminium chloride anhydrous (53 g, 0.13 mol.) was added to a solution of itaconic anhydride (15 g, 0.13 mol.) in dichlorobenzene (100 mL) at room temperature. The reaction mixture was heated to 50° C. for 3 hours. and then inverse quenched with cold water/37% hydrochloric acid (100 mL/100 mL) maintaining the temperature below 30° C. After stirring the quenched reaction for 15 min., hexane (80 mL) was added and stirring continued for 0.5 hours. The product was filtered and dried in a vacuum oven to give the crude unsaturated-ketoacid as a colourless solid, 36 g, recrystallization from diethyl ether provided the pure acid (22 g, 67%) as colourless prisms melting at 156-57° C.

reactant | Aluminium chloride anhydrous | 0.13 mol, 53 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | itaconic anhydride | 0.13 mol, 15 g | C1(C(=C)CC(=O)O1)=O | C5H4O3
reactant | hexane | 80 mL | CCCCCC | C6H14
solvent | dichlorobenzene | 100 mL | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 2-methyliden-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid | 22 g, 67% | C=C(C(=O)O)CC(C1=CC(=C(C=C1)Cl)Cl)=O | C11H8Cl2O3
